US07442803B2
3.33 g (10 mmol) of 9-bromo-10-phenylanthracene was dissolved into 80 mLof tetrahydrofuran (abbr.: THF) and cooled to −78° C., and then 7.5 mL (12.0 mmol) of n-BuLi (1.6 mol/L) was dropped into the reaction solution using a dropping funnel and stirred for 1 hour. A solution in which 5 g (20.0 mmol) of iodine was dissolved in 20 mL of THF was dropped and further stirred for 2 hours at −78° C. After the reaction, an aqueous sodium thiosulfate solution was added to stop the reaction. An organic layer was washed with an aqueous sodium thiosulfate solution and a saturated sodium chloride solution and dried with magnesium sulfate. After natural filtration, the filtrate was concentrated, and the obtained solid was recrystallized with ethanol, thereby obtaining 3.1 g of objective 9-iodo-10-phenylanthracene as a light-yellow solid with a yield of 83%.

reactant | 9-bromo-10-phenylanthracene | 10 mmol, 3.33 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13Br
reactant | n-BuLi | 12.0 mmol, 1.6 mol/L, 7.5 mL | [Li]CCCC
reactant | iodine | 20.0 mmol, 5 g | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9-iodo-10-phenylanthracene | 3.1 g, yield of 83% | IC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13I
